US05681839
3,4,5,6,7,8-Hexahydro-6-((4-hydroxyphenyl)methyl)-3-methylquinolin-2[1H]-one
3,4,5,6,7,8-Hexahydro-6-((4-methoxyphenyl)methyl)-3-methylquinolin-2[1H]-one (2.85 g) prepared according to Example 1 (2.85 g) was suspended in dichloromethane (5 ml) and cooled with ice and boron tribromide (3.3 ml) was added. The mixture was left to stir until tlc (SiO2 /chloroform) showed no starting material remained and then the mixture was quenched by slow addition of water (10 ml). The reaction mixture was further diluted with water and the resulting solid was isolated by filtration. The solid was dissolved in methanol (100 ml) and concentrated HCl (1 ml) was added. The methanol was removed under reduced pressure and the procedure repeated three times. The solid was suspended in ethyl acetate, filtered and washed with ether to give the hemihydrate of the title compound (2.22 g), mp.230°-235° C.

reactant | 3,4,5,6,7,8-Hexahydro-6-((4-methoxyphenyl)methyl)-3-methylquinolin-2[1H]-one | 2.85 g | COC1=CC=C(C=C1)CC1CC=2CC(C(NC2CC1)=O)C | C18H23NO2
reactant | boron tribromide | 3.3 ml | B(Br)(Br)Br | BBr3
reactant | HCl | 1 ml | Cl | ClH
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | methanol | 100 ml | CO | CH4O
product | 3,4,5,6,7,8-Hexahydro-6-((4-hydroxyphenyl)methyl)-3-methylquinolin-2[1H]-one | 2.22 g | OC1=CC=C(C=C1)CC1CC=2CC(C(NC2CC1)=O)C | C17H21NO2
